US09034866B2
10-bromo-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was subjected to General Procedure 0 (ketone/aldehyde reduction) to afford crude methyl 10-bromo-3-(hydroxymethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate. To a reaction flask was placed a solution of methyl 10-bromo-3-(hydroxymethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (1 eq), 2-methylbenzimidazole (1.05 eq) and triphenylphosphine (1.20 equiv) in tetrahydrofuran. This was followed by the addition of di-tert-butylazodicarboxylate (1.1 eq) in Tetrahydrofuran (1.0 mL) dropwise with stirring at 0° C. The resulting solution was stirred for 3 hours at room temperature. The resulting mixture was extracted with dichloromethane and saturated ammonium chloride. The residue was purified by flash column chromotography to afford 114 mg (43%) of methyl 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate as a light yellow oil. 10-bromo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was subjected to General Procedure L to afford 89 mg (81%) of 10-bromo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide as a white solid. 10-bromo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 6.8 mg (15.1%) of 10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-3-[(2-methylbenzimidazol-1-yl)methyl]-5,6,7,12-tetrahydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | methyl 10-bromo-3-(hydroxymethyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 1 eq | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)CO)C1 | C16H15BrN2O3
reactant | 2-methylbenzimidazole | 1.05 eq | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | triphenylphosphine | 1.20 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 1.1 eq | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | methyl 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 114 mg, 43% | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)CN3C(=NC4=C3C=CC=C4)C)C1 | C24H21BrN4O2
